US08729061B2
Step A1: (S)-tert-butyl-1-hydroxybutan-2-ylcarbamate
Under an atmosphere of argon, (S)-2-aminobutan-1-ol (5.12 g, 56.3 mmol, Eq: 1.00) was combined with water (20 ml) and dioxane (20 ml) to give a colorless solution. At 0° C., NaOH (2.7 g, 67.5 mmol, Eq: 1.2) and di-tert-butyl dicarbonate (14.7 g, 67.5 mmol, Eq: 1.2) were added, and the reaction was stirred for 2 h at RT. The reaction mixture was poured into 50 ml H2O and extracted with EtOAc (2×75 ml). The organic layers were dried over Na2SO4 and concentrated in vacuo. The title compound was obtained as a colorless liquid (11.62 g, quant., MS (m/e)=190.3 [M+H+]).

reactant | (S)-2-aminobutan-1-ol | 56.3 mmol, 5.12 g | N[C@H](CO)CC | C4H11NO
reactant | NaOH | 67.5 mmol, 2.7 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 67.5 mmol, 14.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | H2O | 50 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | (S)-tert-butyl-1-hydroxybutan-2-ylcarbamate | C(C)(C)(C)OC(N[C@H](CO)CC)=O | C9H19NO3
